US06737425B1
94-1) 2-[3,4-(Methylenedioxy)phenoxy]ethylbromide
Sodium hydroxide 0.15 g was dissolved in water 6 ml, and Sesamol 0.50 g and 1,2-dibromoethane 0.37 ml were added thereto and heated under reflux for 12 hours. After cooling, water was added thereto, and the product was extracted with ethyl acetate and further washed with brine. The product was dried over magnesium sulfate anhydride and evaporated. The residue was purified by (NH) silica gel column chromatography (hexane/ethyl acetate system), whereby the title compound 0.30 g, 34% was obtained.

reactant | Sodium hydroxide | 0.15 g | [OH-].[Na+]
reactant | Sesamol | 0.50 g | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | 1,2-dibromoethane | 0.37 ml | BrCCBr | C2H4Br2
solvent | water | 6 ml | O | H2O
product | 2-[3,4-(Methylenedioxy)phenoxy]ethylbromide | C1OC=2C=C(OCCBr)C=CC2O1 | C9H9BrO3
